US08809331B2
Step 5: 8-(4-(ethylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)-N-methyl-2,3-dihydrobenzo[b][1,4]dioxine-5-carboxamide
A microwave vial equipped with a magnetic stirrer was charged with 8-amino-N-methyl-2,3-dihydrobenzo[b][1,4]dioxine-5-carboxamide (50 mg, 0.18 mmol), 2-chloro-N-ethyl-5-(trifluoromethyl)pyrimidin-4-amine (40 mg, 0.18 mmol), and t-BuOH (1.0 mL). The mixture was heated at 100° C. for 2 h under microwave irradiation. It was then concentrated and the residue was purified by reverse-phase prep-HPLC to afford the title compound as white solid (15.4 mg, 32%). LCMS: ESI (10 minute run), m/z=398.1 Retention time: 5.471 minute. 1H NMR (500 MHz, CDCl3) δ 8.19 (d, J=9.0 Hz, 1H), 8.17 (s, 1H), 7.82 (d, J=4.5 Hz, 1H), 7.67˜7.62 (m, 1H), 7.50˜7.47 (m, 1H), 5.20 (s, 1H), 4.46˜4.44 (m, 2H), 4.41˜4.40 (m, 2H), 3.63˜3.56 (m, 2H), 3.01 (d, J=5.0 Hz, 3H), 1.31 (t, J=7.5 Hz, 3H).

reactant | 8-amino-N-methyl-2,3-dihydrobenzo[b][1,4]dioxine-5-carboxamide | 0.18 mmol, 50 mg | NC1=CC=C(C2=C1OCCO2)C(=O)NC | C10H12N2O3
reactant | 2-chloro-N-ethyl-5-(trifluoromethyl)pyrimidin-4-amine | 0.18 mmol, 40 mg | ClC1=NC=C(C(=N1)NCC)C(F)(F)F | C7H7ClF3N3
solvent | t-BuOH | 1.0 mL | CC(C)(C)O | C4H10O
product | 8-(4-(ethylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)-N-methyl-2,3-dihydrobenzo[b][1,4]dioxine-5-carboxamide | 15.4 mg, 32% | C(C)NC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C2=C1OCCO2)C(=O)NC | C17H18F3N5O3
